US08258119B2
Synthesis of 3-[(dimethylamino)diazenyl]-5-nitrothiophene-2-carboxylic acid (Compound 7)
To a solution of methyl 3-[(dimethylamino)diazenyl]-5-nitrothiophene-2-carboxylate (550 mg) in methanol (10 mL) was added an aqueous solution of sodium hydroxide (0.25 g in 5 mL of water) at rt and stirred the mixture for 14 h. Excess of methanol was evaporated under reduced pressure and the residue was diluted with ice cold water. The solution was acidified with dil. HCl and the solid separated was filtered, washed with water and dried to give the product as a yellow color solid (450 mg, 86%). The crude product was recrystallized from chloroform-methanol (290 mg), mp 184-186° C. 1H NMR (400 MHz, DMSO-d6): δ 13.26 (1H, br s), 8.00 (1H, s), 3.59 (3H, s), 3.25 (3H, s); LC-MS (positive ion mode): m/z 245 (M+H)+.

reactant | methyl 3-[(dimethylamino)diazenyl]-5-nitrothiophene-2-carboxylate | 550 mg | CN(C)N=NC1=C(SC(=C1)[N+](=O)[O-])C(=O)OC | C8H10N4O4S
reactant | sodium hydroxide | 5 mL, 0.25 g | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-[(dimethylamino)diazenyl]-5-nitrothiophene-2-carboxylic acid | 450 mg, 86% | CN(C)N=NC1=C(SC(=C1)[N+](=O)[O-])C(=O)O | C7H8N4O4S
